US08729263B2
To a solution of crude 3-methoxy-4-(6-(methyl(2,2,6,6 tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)benzoic acid (0.354 mmol) in DMF (4 mL) and CH2Cl2 (4 mL) was added TEA (0.40 mL, 2.83 mmol), allyl amine (0.053 mL, 0.71 mmol), and HATU (202 mg, 0.53 mmol). The crude reaction was allowed to stir at RT overnight. The crude mixture was quenched with sat aq NaHCO3 and diluted with CH2Cl2. The organic layer is washed with water (6×), brine, dried over MgSO4, filtered, and concentrated. The crude product was purified via HPLC to give N-allyl-3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)benzamide (8.2 mg). LCMS Rt=1.08 min (condition B); MS (M+1)=438.1

reactant | 3-methoxy-4-(6-(methyl(2,2,6,6 tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)benzoic acid | 0.354 mmol | COC=1C=C(C(=O)O)C=CC1C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C22H30N4O3
reactant | allyl amine | 0.71 mmol, 0.053 mL | C(C=C)N | C3H7N
reactant | HATU | 0.53 mmol, 202 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-allyl-3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)benzamide | 8.2 mg | C(C=C)NC(C1=CC(=C(C=C1)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)OC)=O | C25H35N5O2
